US04788206
A solution of (E)-5,5-bis(4-fluorophenyl)-2,4-pentadienoic acid ethyl ester (8.8 g) in methanol (30 mL) was treated with 2N sodium hydroxide solution (20 mL) and the mixture was heated at reflux for 15 minutes. The crude solid obtained from the usual work up, was crystallized from dichloromethane-hexane to yield 7.5 g of (E)-5,5-bis(4-fluorophenyl)-2,4-pentadienoic acid mp 186°-188° C. A portion was recrystallized from ether-hexane to furnish the analytical specimen, mp 187°-188° C.

reactant | (E)-5,5-bis(4-fluorophenyl)-2,4-pentadienoic acid ethyl ester | 8.8 g | C(C)OC(\C=C\C=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C19H16F2O2
reactant | sodium hydroxide | 2N, 20 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (E)-5,5-bis(4-fluorophenyl)-2,4-pentadienoic acid | 7.5 g | FC1=CC=C(C=C1)C(=C/C=C/C(=O)O)C1=CC=C(C=C1)F | C17H12F2O2
